### PR TITLE
Remove expr rec

### PR DESCRIPTION
**Pull request by alexkeizer**
Express the match pattern for `matchVar` as a sequence of lets (i.e., `Lets`) together with a variable.

This removes the need for the `ExprRec` representation, thus reducing duplication and potentially opening the way to n-ary operations.

To work around a bug in Lean, this PR also changes a Context to just a list of types, instead of being `Erased`. This change is localized to just a few lines in `ErasedContext.lean`, and should be easy to revert once the bug is fixed.

### CODE REVIEW

File: SSA/Experimental/IntrinsicAsymptotics.lean [hunk 1]
```diff
@@ -333,78 +309,136 @@ theorem Lets.denote_getIExpr {Γ₁ Γ₂ : Ctxt} : {lets : Lets Γ₁ Γ₂} 
...
+  next hd tl ih => 
+    cases h
+    next =>
+      use hd.snd
+      apply List.Mem.head
+    next h =>
+      rcases ih h with ⟨v, ih⟩
+      exact ⟨v, .tail _ ih⟩
+
 theorem _root_.AList.keys_subset_keys_of_entries_subset_entries
```
Comment (ChrisHughes24) [inline SSA/Experimental/IntrinsicAsymptotics.lean:426]: This one is in mathlib now

File: SSA/Experimental/IntrinsicAsymptotics.lean [hunk 2]
```diff
@@ -413,172 +447,190 @@ theorem subset_entries_matchVar : {Γ₁ Γ₂ Γ₃ : Ctxt} →
...
 
-theorem denote_matchVar : {Γ₁ Γ₂ Γ₃ : Ctxt} → (lets : Lets Γ₁ Γ₂) → 
-    {t : Ty} → (v : Γ₂.Var t) → 
-    (varMap : Mapping Γ₃ Γ₂) → (s₁ : Γ₁.Valuation) → 
-    (matchExpr : ExprRec Γ₃ t) → 
-    (ma : Mapping Γ₃ Γ₂ := ∅) →
-    (h : varMap ∈ matchVar lets v matchExpr ma) →
-    matchExpr.denote (fun t' v' => by
-        match varMap.lookup ⟨_, v'⟩  with
+theorem denote_matchVar_sub {lets : Lets Γ_in Γ_out} {v : Γ_out.Var t}
```
Comment (ChrisHughes24) [inline SSA/Experimental/IntrinsicAsymptotics.lean:488]:
```suggestion
theorem denote_matchVar_of_subset {lets : Lets Γ_in Γ_out} {v : Γ_out.Var t} 
```

**Review by ChrisHughes24 — APPROVED** [review]

File: SSA/Experimental/IntrinsicAsymptotics.lean (hunk 1 above)
Comment (tobiasgrosser) [reply SSA/Experimental/IntrinsicAsymptotics.lean:426]: Nice.
